US06958350B2
a) N-[1-(3,4-Difluorobenzyl)-piperidinyl]-3-hydrazinocarbonyl-propionamide
A solution of 1-(3,4-difluorobenzyl)-piperidin-4-ylamine (8.7 g; EP-A2-0625507) and triethylamine (7.0 ml) in dichloromethane (200 ml) stirring at ambient temperature was treated with 3-chlorocarbonyl-propionic acid methyl ester (5.2 ml). After stirring for 16 hours, the reaction mixture was washed with brine, the organic layer was dried (MgSO4), and evaporated to leave a white solid. This solid was suspended in ethanol (200 ml), treated with hydrazine hydrate (5 ml) and the resulting mixture was stirred at reflux for 16 hours and then allowed to cool. Water (30 ml) was added to the reaction mixture and the ethanol was evaporated. The aqueous residue was then extracted into dichloromethane (6×50 ml), the combined organics were dried (MgSO4) and evaporated to give the subtitle compound as a white solid. (4.8 g)

reactant | 1-(3,4-difluorobenzyl)-piperidin-4-ylamine | 8.7 g | FC=1C=C(CN2CCC(CC2)N)C=CC1F | C12H16F2N2
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorocarbonyl-propionic acid methyl ester | 5.2 ml | COC(CCC(=O)Cl)=O | C5H7ClO3
reactant | hydrazine hydrate | 5 ml | O.NN
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | Water | 30 ml | O | H2O
product | N-[1-(3,4-Difluorobenzyl)-piperidinyl]-3-hydrazinocarbonyl-propionamide | FC=1C=C(CN2C(CCCC2)NC(CCC(=O)NN)=O)C=CC1F | C16H22F2N4O2
